US07582625B2
11k) (R)-1-carboxy-2-(3-ethyl-4-hydroxy-5-methyl-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
810 mg (1.38 mmol) (R)-2-(4-benzyloxy-3-ethyl-5-methyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 25 mL MeOH were combined with 80 mg of 10% Pd/C and hydrogenated at RT and 3 bar hydrogen until the reaction came to an end. The catalyst was removed by suction filtering and the solvent was concentrated by evaporation i. vac. The residue was triturated with DIPE, suction filtered and dried.

reactant | (R)-2-(4-benzyloxy-3-ethyl-5-methyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 1.38 mmol, 810 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)CC)C(=O)O)C=CC=C2 | C34H39N3O6
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 25 mL | CO | CH4O
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | (R)-1-carboxy-2-(3-ethyl-4-hydroxy-5-methyl-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)O)CC)C(=O)O)C=CC=C2 | C27H33N3O6
